US07851623B2
Benzyl 4-(benzyloxy)-3-methoxybenzoate (78 g) was mixed with dichloromethane (580 ml), water (72 ml) and glacial acetic acid (288 ml). The mixture was cooled to 10° C. Concentrated sulfuric acid (108 ml) was added in a controlled manner maintaining the is temperature of the reaction mixture below 25° C. Concentrated nitric acid (17.5 ml) was then added keeping the temperature of the reaction mixture below 20° C. The reaction mixture was then stirred at 20° C. for 23 hours. The lower aqueous layer was removed and the organic layer was washed with water (290 ml). The organic layer was separated and distilled to 270 ml at atmospheric pressure. Isopropanol (750 ml) was added to the reaction mixture at 45° C. The reaction mixture was then heated to 40° C. and stirred at this temperature for 15 minutes. The resulting suspension was then cooled to 20° C., then to 5° C. and held at this temperature for one hour. The product (benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate) was isolated by filtration, washed with isopropanol (200 ml) and dried at less than 25° C. Yield: 78.4 g, 89.6%;

reactant | Benzyl 4-(benzyloxy)-3-methoxybenzoate | 78 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)OC | C22H20O4
reactant | dichloromethane | 580 ml | ClCCl | CH2Cl2
reactant | sulfuric acid | 108 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 17.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 288 ml | C(C)(=O)O | C2H4O2
solvent | water | 72 ml | O | H2O
product | benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1OC)[N+](=O)[O-] | C22H19NO6
